US08975415B2
A mixture of di-tert-butyl (6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate (13.8 mg), indole-5-boronic acid (8.1 mg), PdCl2(dppf) (2.0 mg) and 1M aqueous K2CO3 (0.063 mL) in dioxane (0.25 mL) was stirred for 12 hours at 100° C. The mixture was filtered by using Chem Elut cartridges and washed with CHCl3. The filtrate was evaporated. The residue was purified with HPLC (Column: Waters SunFire™ Prep C18 OBD™ 5 micrometer, 19×100 mm; MeOH/0.1% aqueous HCOOH 11/89 to 95/5(v/v)) and afforded 6′-(1H-indol-5-yl)-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine (4.5 mg).

reactant | di-tert-butyl (6′-bromo-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate | 13.8 mg | BrC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)C(OC2=CC1)(C)C | C25H33BrN2O7
reactant | indole-5-boronic acid | 8.1 mg | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | K2CO3 | 1M, 0.063 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 0.25 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 2.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6′-(1H-indol-5-yl)-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine | 4.5 mg | N1C=CC2=CC(=CC=C12)C=1C=C2C3(N=C(OC3)N)C3(COC3)C(OC2=CC1)(C)C | C23H23N3O3
